US06342765B1
Methyl 5-[2-(imidazol-1-yl)-1-(thiazol-2-yl)ethoxy]-2-(4-fluorophenethyl)benzoate was hydrolysed using aqueous sodium hydroxide solution to give 5-[2-(imidazol-1-yl)-1-(thiazol-2-yl)ethoxy]-2-(4-fluorophenethyl)benzoic acid.

reactant | Methyl 5-[2-(imidazol-1-yl)-1-(thiazol-2-yl)ethoxy]-2-(4-fluorophenethyl)benzoate | N1(C=NC=C1)CC(OC=1C=CC(=C(C(=O)OC)C1)CCC1=CC=C(C=C1)F)C=1SC=CN1 | C24H22FN3O3S
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-[2-(imidazol-1-yl)-1-(thiazol-2-yl)ethoxy]-2-(4-fluorophenethyl)benzoic acid | N1(C=NC=C1)CC(OC=1C=CC(=C(C(=O)O)C1)CCC1=CC=C(C=C1)F)C=1SC=CN1 | C23H20FN3O3S
